US08871796B2
Ethylmagnesium bromide (3.0 M in diethyl ether, 4.3 mL, 13 mmol 2.0 equiv) was added to a solution of titanium (IV) isopropoxide (2.1 mL, 7.1 mmol, 1.1 equiv) and 3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}benzonitrile (2.3 g, 6.4 mmol, 1 equiv) in tetrahydrofuran (26 mL) at −78° C. The reaction mixture was stirred at −78° C. for 5 min, then the cooling bath was removed. After stirring for an additional 60 minutes, boron trifluoride diethyl etherate (1.6 mL, 13 mmol, 2.0 equiv) was added stirred for 45 minutes, then cooled to 0° C. and treated with aqueous sodium hydroxide solution (3.0 N, 40 mL). The biphasic mixture was stirred for 15 minutes, then filtered through celite with the aid of ethyl acetate. The filtrate was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated. The residue was purified by flash-column chromatography (50% ethyl acetate-hexanes, followed by 10% methanol-dichloromethane) to afford 1-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)cyclopropanamine (1.35 g, 51%). Calcd (M+1)+: 388.2. Found: 388.1.

reactant | Ethylmagnesium bromide | 13 mmol, 3.0 M, 4.3 mL, 2.0 equiv | C(C)[Mg]Br
reactant | 3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}benzonitrile | 6.4 mmol, 2.3 g, 1 equiv | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C#N)C=CC1 | C19H14F3N3O
reactant | boron trifluoride diethyl etherate | 13 mmol, 1.6 mL, 2.0 equiv | B(F)(F)F.CCOCC
reactant | sodium hydroxide | 3.0 N, 40 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 26 mL | O1CCCC1 | C4H8O
catalyst | titanium (IV) isopropoxide | 7.1 mmol, 2.1 mL, 1.1 equiv | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)cyclopropanamine | 1.35 g, 51% | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(CC1)N | C21H20F3N3O
